US08877772B2
Preparation of 3-iodo-1-(toluene-4-sulfonyl)-5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (Intermediate CJ)
A solution of 3-iodo-5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (870 mg, 2.12 mmol) in anh. THF (10 ml) was cooled to 0° C. and NaH (60% dispersion, 130 mg, 3.18 mmol) was added. After 20 min tosyl chloride (450 mg, 2.33 mmol) was added and the mixture was allowed to warm to room temperature. After 3 hrs the mixture was cooled to 0° C. and quenched by the addition of 0.5 N HCl. The product was extracted with DCM and purified by silica gel chromatography using DCM as an eluent affording 648 mg (54%). 1H NMR (CDCl3, 300 MHz): δ 8.61 (d, J=2.4 Hz, 1H), 8.12 (d. J=8.4 Hz, 1H), 7.91 (s, 1H), 7.74 (d, J=2.1 Hz, 1H), 7.31 (d, J=8.4 Hz, 2H), 6.73 (s, 2H), 3.94 (s, 6H), 3.90 (s, 3H), 2.39 (s, 3H).

reactant | 3-iodo-5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 2.12 mmol, 870 mg | IC1=CNC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC | C16H15IN2O3
reactant | NaH | 3.18 mmol, 130 mg | [H-].[Na+]
reactant | tosyl chloride | 2.33 mmol, 450 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-iodo-1-(toluene-4-sulfonyl)-5-(3,4,5-trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | IC1=CN(C2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C | C23H21IN2O5S
